US07456200B2
4-Methyl-5-pyridin-3-yl-4H-[1,2,4]triazole-3-thiol
A solution of 4-methyl-3-thiosemicarbazide (902 mg, 8.58 mmol), nicotinic acid (960 mg, 7.80), EDCI (1.64 g, 8.58 mmol), HOBt (1.16 g, 8.58 mmol) in DMF (10 ml) was stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate (100 ml), successively washed with hydrochloric acid (50 ml, 10% aqueous), water (50 ml), saturated sodium carbonate (50 ml, aqueous), water (50 ml) and brine (50 ml). The organic phase was dried (sodium sulfate), filtered and concentrated in-vacuo. The residue was stirred in sodium hydroxide (53.4 ml, 66.7 mmol, 5% aqueous) at 60° C. overnight. The reaction mixture was cooled to room temperature, then carefully brought to pH about 6 using hydrochloric acid (1 N water). The aqueous phase was saturated with solid sodium chloride, then extracted with ethyl acetate (4×50 ml). The combined organic phase was washed with brine (100 ml), dried (sodium sulfate), filtered and concentrated in-vacuo (180 mg, off-white solid). 1H NMR (CDCl3), δ (ppm): 11.6 (bs, 1H), 8.94 (s, 1H), 8.83 (dd, 1H), 7.98 (m, 1H), 7.51 (dd, 1H), 3.69 (s, 3H).

reactant | 4-methyl-3-thiosemicarbazide | 8.58 mmol, 902 mg | CNC(NN)=S | C2H7N3S
reactant | nicotinic acid | 960 mg | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | EDCI | 8.58 mmol, 1.64 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 8.58 mmol, 1.16 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | sodium hydroxide | 66.7 mmol, 53.4 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 4-Methyl-5-pyridin-3-yl-4H-[1,2,4]triazole-3-thiol | CN1C(=NN=C1C=1C=NC=CC1)S | C8H8N4S
